US04340740
m-Benzoylbenzaldehyde (4.20 g) and 3.80 g of p-toluenesulfonyl chloride were dissolved in 13 ml of 1,2-dimethoxyethane (DME), and the solution was stirred at -15° to -10° C. An aqueous solution of sodium cyanide (1.08 g/15 ml) was added dropwise to the solution over 10 minutes. The mixture was stirred at -15° to -10° C. for 2 hours and then at room temperature for 40 minutes. Water (60 ml) was added, and the mixture was extracted with 60 ml of methylene chloride three times. The extract was washed with 70 ml of water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was separated by column chromatography (silica gel; benzene and methylene chloride) to afford 5.21 g (yield 67%) of O-(p-toluenesulfonyl)-m-benzoylmandelonitrile as colorless crystals.

reactant | m-Benzoylbenzaldehyde | 4.20 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=O)C=CC1 | C14H10O2
reactant | p-toluenesulfonyl chloride | 3.80 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium cyanide | 15 ml, 1.08 g | [C-]#N.[Na+]
reactant | Water | 60 ml | O | H2O
solvent | 1,2-dimethoxyethane | 13 ml | COCCOC | C4H10O2
product | O-(p-toluenesulfonyl)-m-benzoylmandelonitrile | 5.21 g, yield 67% | C1(=CC=C(C=C1)S(=O)(=O)OC(C#N)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O)C | C22H17NO4S
